US04328341
(a) 4,6-Diacetyl-3-ethylaminophenol
3-Acetamido-4,6-diacetylphenol (0.01 mole) in N-methylpyrrolidone (NMP) (20 ml) was added to a cooled (<5° C.), stirred suspension of sodium hydride (0.022 mole) in NMP (5 ml). After 15 minutes the mixture was treated with ethyliodide (0.019 mole). After two hours at <5° C., the mixture was acidified with ethanol/conc. HCl (1:1, 20 ml) and heated to reflux for 21/2 hours. The mixture was allowed to cool and the crystalline subtitle compound isolated by filtration. Yield 63%, mp 103°-104° C.

reactant | 3-Acetamido-4,6-diacetylphenol | 0.01 mole | C(C)(=O)NC=1C=C(C(=CC1C(C)=O)C(C)=O)O | C12H13NO4
reactant | sodium hydride | 0.022 mole | [H-].[Na+]
reactant | ethyliodide | 0.019 mole | C(C)I | C2H5I
reactant | HCl | 20 ml | Cl | ClH
solvent | N-methylpyrrolidone | 20 ml | CN1C(CCC1)=O | C5H9NO
solvent | NMP | 5 ml | CN1C(CCC1)=O | C5H9NO
solvent | ethanol | C(C)O | C2H6O
product | 4,6-Diacetyl-3-ethylaminophenol | Yield 63% | C(C)(=O)C1=C(C=C(C(=C1)C(C)=O)O)NCC | C12H15NO3
